US06632810B2
Synthesis of 2-(2-methanesulfonyloxyethyl)-5,6,7-trimethoxynaphthalene:
2-(2-Hydroxyethyl)-5,6,7-trimethoxynaphthalene (1.26 g) was dissolved in pyridine (5 mL), methanesulfonyl chloride (715 mg) was added at 0° C. to the solution, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was acidified with hydrochloric acid and extracted with ethyl acetate. The resultant extract was washed with water and saturated brine. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:5) to obtain the title compound.

reactant | 2-(2-Hydroxyethyl)-5,6,7-trimethoxynaphthalene | 1.26 g | OCCC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C15H18O4
reactant | methanesulfonyl chloride | 715 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-methanesulfonyloxyethyl)-5,6,7-trimethoxynaphthalene | CS(=O)(=O)OCCC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C16H20O6S
